US07273541B2
Acetoacetate/3-hydroxybutyrate
2-Oxoglutarate, CO2/isocitrate

reactant | 2-Oxoglutarate | O=C(C(=O)[O-])CCC(=O)[O-]
reactant | CO2 isocitrate | C(=O)=O.C(C(O)C(C(=O)[O-])CC(=O)[O-])(=O)[O-]
product | Acetoacetate 3-hydroxybutyrate | C(CC(=O)C)(=O)[O-].OC(CC(=O)[O-])C | InChI=1S/C4H8O3.C4H6O3/c2*1-3(5)2-4(6)7/h3,5H,2H2,1H3,(H,6,7);2H2,1H3,(H,6,7)/p-2
